US07977325B2
Production of 2-(3-Isopropoxy-5-methoxy-phenyl)-[1,3]dioxolane
3.42 ml of azodicarboxylic acid diethyl ester is slowly added in drops to a solution of 2.85 g of the compound that is described under Example 33b, 5.7 g of triphenylphosphine and 1.7 ml of 2-propanol in 20 ml of tetrahydrofuran at 0° C. It is allowed to stir for 20 more minutes at 23° C., and then the reaction mixture is poured into 10 ml of hexane. Then, it is stirred for 15 more minutes and then filtered over Celite. The crude product is purified by column chromatography. 2.94 g of product is obtained.

reactant | azodicarboxylic acid diethyl ester | 3.42 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 5.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-propanol | 1.7 ml | CC(C)O | C3H8O
reactant | hexane | 10 ml | CCCCCC | C6H14
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3-Isopropoxy-5-methoxy-phenyl)-[1,3]dioxolane | 2.94 g | C(C)(C)OC=1C=C(C=C(C1)OC)C1OCCO1 | C13H18O4
